US06706709B2
6-(4-Methoxy-phenyl)-3-[5-(2-pyrrolidin-1-yl-ethoxy)-1H-indol-2-ylmethylene]-1,3-dihydro-indol-2-one
6-(4-Methoxy-phenyl)-1,3-dihydro-indol-2-one was condensed with 5-(2-pyrrolidin-1-yl-ethoxy)-1H-indole-2-carbaldehyde to give the title compound.

reactant | 6-(4-Methoxy-phenyl)-1,3-dihydro-indol-2-one | COC1=CC=C(C=C1)C1=CC=C2CC(NC2=C1)=O | C15H13NO2
reactant | 5-(2-pyrrolidin-1-yl-ethoxy)-1H-indole-2-carbaldehyde | N1(CCCC1)CCOC=1C=C2C=C(NC2=CC1)C=O | C15H18N2O2
product | 6-(4-Methoxy-phenyl)-3-[5-(2-pyrrolidin-1-yl-ethoxy)-1H-indol-2-ylmethylene]-1,3-dihydro-indol-2-one | COC1=CC=C(C=C1)C1=CC=C2C(C(NC2=C1)=O)=CC=1NC2=CC=C(C=C2C1)OCCN1CCCC1 | C30H29N3O3
